US04735940
(aa) 1.34 g of methyl 7-oxo-8-phenyl-7H-thieno[2,3-a]quinolizine-10-carboxylate were heated under reflux and under argon with 0.45 g of potassium hydroxide in 25 ml of water/methanol. After the reaction was completed, the mixture was acidified with 2N hydrochloric acid and the yellow crystals were removed by filtration. After washing with water, the acid was dried in vacuo for several hours. There was obtained 7-oxo-8-phenyl-7H-thieno[2,3-a]quinolizine-10-carboxylic acid of m.p. 185°-186° (dec.).

reactant | methyl 7-oxo-8-phenyl-7H-thieno[2,3-a]quinolizine-10-carboxylate | 1.34 g | O=C1N2C=CC3=C(C2=C(C=C1C1=CC=CC=C1)C(=O)OC)SC=C3 | C19H13NO3S
reactant | potassium hydroxide | 0.45 g | [OH-].[K+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water methanol | 25 ml | O.CO
product | 7-oxo-8-phenyl-7H-thieno[2,3-a]quinolizine-10-carboxylic acid | O=C1N2C=CC3=C(C2=C(C=C1C1=CC=CC=C1)C(=O)O)SC=C3 | C18H11NO3S
